US09353075B2
Step 2. Preparation of (2R,3S)-3-hydroxy-2-[[(1S)-1-methyloctoxy]-carbonylamino]-butanoic acid
To a stirred mixture of D-threonine (0.150 g, 1.25 mmol) and NaHCO3 (0.158 g, 1.89 mmol) in water (3 mL), the crude mixture containing [(1S)-1-methyloctyl]-2-pyridyl carbonate and [(1S)-1-methyloctyl]-2-oxopyridine 1-carboxylate (0.501 g, 1.88 mmol) in THF (3 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2M HCl solution to pH 2-3 and subsequently extracted with AcOEt (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.220 g, 62%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 290 [M−H]+; (ESI) m/z: 288 [M−H]−. 1H NMR (DMSO-d6): δ 0.87 (t, J=6.8 Hz, 3H), 1.09 (d, J=6.4 Hz, 3H), 1.15 (d, J=6.2 Hz, 3H), 1.21-1.34 (m, 10H), 1.40-1.57 (m, 2H), 3.92 (dd, J=3.4, 9.0 Hz, 1H), 4.01-4.11 (m, 1H), 4.60-4.70 (m, 1H), 6.55 (d, J=9.0 Hz, 1H), 12.49 (s, 1H).

reactant | D-threonine | 1.25 mmol, 0.150 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.89 mmol, 0.158 g | C(=O)(O)[O-].[Na+]
reactant | [(1S)-1-methyloctyl]-2-pyridyl carbonate | C(OC1=NC=CC=C1[C@H](CCCCCCC)C)([O-])=O
reactant | [(1S)-1-methyloctyl]-2-oxopyridine 1-carboxylate | 1.88 mmol, 0.501 g | C[C@@H](CCCCCCC)OC(=O)N1C(C=CC=C1)=O | C15H23NO3
solvent | water | 3 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2R,3S)-3-hydroxy-2-[[(1S)-1-methyloctoxy]-carbonylamino]-butanoic acid | 0.220 g, 62% | O[C@H]([C@H](C(=O)O)NC(=O)O[C@H](CCCCCCC)C)C | C14H27NO5
